US07732365B2
(+)-1-(4-Methoxyphenyl)-1-phenoxy-2-propene:
(−)-1-Methyl-2-(1-propylallyloxy)benzene (Evans, P. A.; Leahy, D. K. J. Am. Chem. Soc. 2000, 122, 5012): The general procedure was followed with lithium 2-methylphenoxide (228 mg, 2.0 mmol) and 2-hexenyl methylcarbonate (160 mg, 1.0 mmol) in THF (2 mL). The reaction was conducted at 50° C. for 20 h. 1H NMR analysis of the mixture indicated the ratio of regioisomers to be 87/13. The residue was purified by flash chromatography on silica gel (0-1% Et2O/Hexanes) to afford 165 mg of the title compound as an oil. [86%, Rf 0.92 (5% Et2O/Hexanes)].[α]D20=−3.0 (c 0.3, CHCl3). 1H NMR (500 MHz, CDCl3) δ 7.16 (m, 2H), 6.88 (m, 2H), 5.92 (ddd, J=17.4, 10.5, 6.1 Hz, 1H), 5.28 (dt, J=17.4, 1.2 Hz, 1H), 5.22 (dt, J=10.5, 1.0 Hz, 1H), 4.67 (dt, J=6.4, 6.1 Hz, 1H), 2.31 (s, 3H), 1.89-1.83 (m, 1H), 1.76-1.69 (m, 1H), 1.60-1.47 (m, 2H), 1.01 (t, J=7.4 Hz, 3H); 13C NMR (125.77 MHz, CDCl3) δ 156.5 (C), 138.5 (CH), 130.6 (CH), 127.4 (C), 126.4 (CH), 120.2 (CH), 115.9 (CH2), 113.1 (CH), 78.6 (CH), 37.9 (CH2), 18.5 (CH2), 16.4 (CH3), 14.0 (CH3). HPLC analysis indicated an enantiomeric excess of 90% [Chiralcel® OD-H column, eluting with 99.9:0.1 hexane/i-PrOH, 0.6 mL/min, 220 nm; major enantiomer tR, 12.2, minor enantiomer tR 13.7 min].

reactant | (−)-1-Methyl-2-(1-propylallyloxy)benzene | CC1=C(C=CC=C1)OC(C=C)CCC | C13H18O
reactant | lithium 2-methylphenoxide | 2.0 mmol, 228 mg | CC1=C([O-])C=CC=C1.[Li+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | (+)-1-(4-Methoxyphenyl)-1-phenoxy-2-propene | 165 mg | COC1=CC=C(C=C1)C(C=C)OC1=CC=CC=C1 | C16H16O2
